* Z:\home\mainster\CODES_local\LTSpice_projects\galvoscanner\aktuell\bauteile_bestimmt\endstufe_BJT_EMIT_MJ1101xG_ltc6090_ada4700_compare_nur_ein_hv_FERTIG_hoch2_maerz2015_higain.asc
R14 N027 shunt 3.5
L1 out_A N027 {Lcoil}
R4 out_A N017 1t
C2 N017 0 100n
XU1 V2+ vdc_single V=12
XU2 V2- vdc_single V=-12V
R2 IsensA N023 10k
R6 stimac N021 10k
R7 N023 sumB 470
R8 0 N021 470
XU5 0 N030 0 V- NC_01 opV V+ NC_02 LTC6090
R16 sumB N030 2k2
Q§T3 V+ HS b_hi 0 FMMT624
Q§T4 V- LS b_lo 0 FMMT723
R23 b_hi e_hi {bias_be1}
R24 e_lo b_lo {bias_be1}
R37 e_hi out_A .015
R38 e_lo out_A .015
C6 0 0 10p
C7 0 0 10p
XU6 V- b_lo e_lo MJ11015G_D MJ11015G_D
XU7 V+ b_hi e_hi MJ11016G_D MJ11016G_D
R11 N026 N033 2
S1 N033 0 N036 0 SWx
V1 N036 0 PULSE(-1 1 {1.9m+350u} 100u 100u 5m 80m)
V4 stimOffs stimac PULSE({Vstim_peak} 0 0 100u)
C4 N030 out_A {Cf}
B2 calcSum 0 V=V(stimoffs)-V(isensa)
V2 stimpwl 0 PWL(0 0 200u 1u 201u {V1} 900u {V1-1u} 901u 0 1.6m 1u 1.601m {-V1} 2.3m {-V1+1u} 2.301m 0)
V3 N003 0 SINE(20m 1 100 20m) AC 1
XU20 V+ vdc_single V={Vsup}
XU21 V- vdc_single V={-Vsup}
XU9 stimac N003 jumperResistor Rjump=1u Rin=1t Rout=1t
R1 N013 N015 {bias_b1}
D3 N020 N022 1N4148
D4 N015 N020 1N4148
R3 N037 N041 {bias_b1}
D5 N034 N037 1N4148
D6 N022 N034 1N4148
R12 N049 V- {Rref}
R15 N048 V- 20k
I1 V+ N040 {I0}
Q1 N012 N009 N007 0 FMMT723
Rmirr V+ N007 20k
I2 N012 V- {I0}
V5 N022 0 SINE(0 5 1k)
Q2 N013 N009 N008 0 FMMT723
Q3 V- N012 N009 0 FMMT723
Q4 N041 N044 N049 0 FMMT624
Q5 N040 N044 N048 0 FMMT624
Q6 V+ N040 N044 0 FMMT624
R19 V+ N008 {Rref}
R20 N005 HS {bias_b1}
D9 HS N010 1N4148
R21 LS N031 {bias_b1}
R22 N039 V- {Rref}
R27 N038 V- 5k
I5 V+ N025 {I0}
Q7 N006 N004 N001 0 FMMT723
R28 V+ N001 5k
I6 N006 V- {I0}
Q8 N005 N004 N002 0 FMMT723
Q9 V- N006 N004 0 FMMT723
Q10 N031 N032 N039 0 FMMT624
Q11 N025 N032 N038 0 FMMT624
Q12 V+ N025 N032 0 FMMT624
R29 V+ N002 {Rref}
D7 N010 opV 1N4148
D11 opV N019 1N4148
D12 N019 LS 1N4148
Rshunt1 shunt 0 0.015
XU14 0 N046 N050 N055 N045 N054 LTC2050
XU15 N050 vdc_single V=5V
XU16 N055 vdc_single V=-5V
R18 N045 N046 270
R30 N046 shunt 27
C3 N045 N046 10p
XU17 N054 vdc_single V=5V
XU18 N051 N043 N047 N053 Isensa N052 LTC2050
XU19 N047 vdc_single V=5V
XU22 N053 vdc_single V=-5V
R31 Isensa N043 180
R32 N051 N045 1k
XU23 N052 vdc_single V=5V
R33 N043 0 20
C8 N051 0 {1/(2*pi*1k*100k)}
E1 N018 0 stimac 0 {2k2*Kpi*10k/470}
R9 N030 out_A {2k2*Kpi*10k/470}
XU3 N021 N023 V2+ V2- sumB LT1468
C9 N030 0 {Ctp}
E2 HV_gain 0 stimac 0 {Kpi*10k/470}
XU4 NC_05 vdc_single V=1
E3 R_feed 0 P001 0 {2k2*Kpi*10k/470}
XU8 P001 vdc_single V=1
.model D D
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.bjt
.model SWx SW(Ron=1u Roff=100Meg Vt=0 Vh=-.5 )
.inc ADA4700.sub
.inc LM358.sub
;.tran 0 100m 1m
;.options plotwinsize=0
;.tran 0 2.8m 1.9m 1e-7
.ac oct 100 10 1meg
; ---------------------
;   Power amp
; ---------------------
;.param Rset_bias = 100
;.param Ik3 = 1m
;.param UV1 = 0.75V
.param bias_be1 = 150
;.param bias_b1 = {UV1/Ik3}
.param bias_b1 = 750
.param Lcoil = 170u
; ---------------------
;   Compensator
; ---------------------
.param Rsu = 1k
.param Kpi = 5
;.param Ki = 15000
; ---------------------
;   SOURCES
; ---------------------
.param Vsup = 25V
.param Vstim_peak = 5
.MEAS TRAN slewHi DERIV I(Rshunt) WHEN I(Rshunt)='15'
.MEAS TRAN slewLo DERIV I(Rshunt) WHEN I(Rshunt)='-15'
.MEAS TRAN tRise TRIG I(Rshunt) VAL=-15 RISE=1
+ TARG I(Rshunt) VAL=15 TD 10ns RISE=1
.MEAS TRAN tFall TRIG I(Rshunt) VAL=15 FALL=1
+ TARG I(Rshunt) VAL=-15 TD 10ns FALL=2
* .step TEMP list 27 150
.option noopiter
.options plotwinsize=0
.four 1k 10 I(L1)
.param Cf = 3p3
.param V1=1;
* PULSE({-Vstim_peak} {Vstim_peak} 0 100n 100n 1m 2m)\nPULSE({-Vstim_peak} {Vstim_peak} 0 100m 100n 500u 100m)
* .step param Kpi list 1 5 10
.param Rshuntm=0.003
;.step param Rshuntm list 10m 3m
* 150R
* 150R
* .dc V3 -5 5 .01
* Bias_b1 = 750R\nBias_be1 = 15R\n2x2 1N4148 \nI3=1mA \n-------------------------\n55mA Ruhestrom durch Rs
.param Rref=2k
.param I0=100u
.param Iq=400u
.param Rmirr={Iq/I0*Rref}
* REF200 für Biasstrom- Erzeugung\n \nR_Ref = 2k\n;Querstrom durch die 4 Dioden\nIq = 1mA     ;\n--------------------------------\nR_mirr = Iq / I0 * Rref\nRmirr=
* .op
* .tran 0 100m 1m\n.options plotwinsize=0
* .tran 0 50m\n.options plotwinsize=0
* .step param I0 list 100u 10n
* Vu1= -10/3
* Vu2 = 20
* gesamt Av=40dB
* 750R
* .param TEST=1\n;.step param TEST list 1 0\n;.step param Kpi list 2 5 25
.step param Lcoil list 1f 170u
* .step param Cf list 5p 10p 15p 20p
* .step param Ctp list 1p 100p 200p 470p 1n
.param Ctp = 10p
* .step param Cf list 1p 20p 50p 100p
* .step param gainSum list 1 2 5
.lib EIT_sub\vdc_single.sub
.lib LTC.lib
.lib LTC5.lib
.lib MDB_sub/jumperRes.sub
.lib mj11015g_d.sub
.lib mj11016g_d.sub
.backanno
.end
