* Z:\home\mainster\CODES_local\LTSpice_projects\galvoscanner\aktuell\bauteile_bestimmt\endstufe_BJT_EMIT_MJ1101xG_ltc6090_compare_currentMirror_nur_ein_hv_FERTIG.asc
R14 N017 shunt 1.5
L1 out_A N017 170µ
Rshunt shunt 0 0.003
R4 out_A N015 1t
C2 N015 0 100n
XU1 V2+ vdc_single V=16
XU2 V2- vdc_single V=-16
R2 N035 IsensA {Rsu}
R6 stimOffs N029 {Rsu}
R7 N035 sumB {Rsu}
R8 0 N029 {Rsu}
XU4 N029 N035 V2+ V2- sumB NJM4580_1
R13 sumB N032 10k
XU5 0 N034 0 V- NC_01 opV V+ NC_02 LTC6090
R16 sumBinv N034 10k
R17 N034 out_A {10k*Kpi}
Q§T3 V+ bias_hi1 b_hi 0 FMMT624
Q§T4 V- bias_lo2 b_lo 0 FMMT723
R23 b_hi e_hi {bias_be1}
R24 e_lo b_lo {bias_be1}
R25 bias_hi1 bias_hi2 {bias_b1}
R26 bias_lo1 bias_lo2 {bias_b1}
R37 e_hi out_A {Rs}
R38 e_lo out_A {Rs}
C6 e_lo b_lo 10p
C7 b_hi e_hi 10p
XU6 V- b_lo e_lo MJ11015G_D MJ11015G_D
XU7 V+ b_hi e_hi MJ11016G_D MJ11016G_D
D8 N012 opV 1N4148
D10 opV N016 1N4148
V4 stimOffs stimac PULSE({Vstim_peak} 0 0 100u)
D1 bias_hi2 N012 1N4148
D2 N016 bias_lo1 1N4148
E2 sumBinv 0 N032 0 1
C4 N034 out_A {Cf}
B2 calcSum 0 V=V(stimoffs)-V(isensa)
V2 stimpwl 0 PWL(0 0 200u 1u 201u {V1} 900u {V1-1u} 901u 0 1.6m 1u 1.601m {-V1} 2.3m {-V1+1u} 2.301m 0)
XU8 0 N027 N030 N042 N026 N040 LTC2050
XU10 N030 vdc_single V=5V
XU11 N042 vdc_single V=-5V
R9 N026 N027 400
R10 N027 shunt 120
C8 N026 N027 1f
V3 stimac 0 PULSE({-Vstim_peak} {Vstim_peak} 0 100n 100n 1.5m 3m) AC 1
XU20 V+ vdc_single V={Vsup}
XU21 V- vdc_single V={-Vsup}
XU3 N040 vdc_single V=5V
R12 N022 V--- {Rref}
R15 N021 V--- {R2}
I1 V+++ N018 {I0}
Q1 N010 N009 N007 0 FMMT723
R18 V+++ N007 {R2}
I2 N010 V--- {I0}
Q2 bias_hi1 N009 N008 0 FMMT723
Q3 V--- N010 N009 0 FMMT723
Q4 bias_lo2 N020 N022 0 FMMT624
Q5 N018 N020 N021 0 FMMT624
Q6 V+++ N018 N020 0 FMMT624
R19 V+++ N008 {Rref}
R1 V+ N004 4.7k
Q7 N002 N004 N005 0 BC547B
R3 N005 V- 829
R20 0 N002 100
Q8 V+ N001 N003 0 BC550BP
R21 V+ N001 4.7k
R22 N003 N006 829
XU14 N001 N006 N003 tlv431_my
R27 0 N006 100
XU13 N004 V- N005 tlv431_my
XU15 V+++ vdc_single V={Vrail_bias}
XU9 V--- vdc_single V={-Vrail_bias}
XU12 N036 N024 N028 N039 Isensa N038 LTC2050
XU16 N028 vdc_single V=5V
XU17 N039 vdc_single V=-5V
R5 Isensa N024 1900
R11 N036 N026 50
C1 Isensa N024 1f
XU18 N038 vdc_single V=5V
R28 N024 0 100
.model D D
.lib C:\Program Files (x86)\LTC_orig\LTspiceIV_4.18\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC_orig\LTspiceIV_4.18\lib\cmp\standard.bjt
.inc /home/mainster/.wine/drive_c/Program Files (x86)/LTC_orig/LTspiceIV_4.18/lib/sub/ADA4700.sub
.inc /home/mainster/.wine/drive_c/Program Files (x86)/LTC_orig/LTspiceIV_4.18/lib/sub/LM358.sub
.tran 0 12m 6m startup uic
; ---------------------
;   Power amp
; ---------------------
.param Ikff1 = 3m
.param bias = 1k
;.param bias_b = 100
.param Rs = 10m
.param Rset_bias = 100
; ---------------------
;   Compensator
; ---------------------
.param Rsu = 10k
.param Kpi = 10
.param Ki = 15000
; ---------------------
;   SOURCES
; ---------------------
.param Vsup = 30V
.param Vstim_peak = 5
.MEAS TRAN slewHi DERIV I(Rshunt) WHEN I(Rshunt)='15'
.MEAS TRAN slewLo DERIV I(Rshunt) WHEN I(Rshunt)='-15'
.MEAS TRAN tRise TRIG I(Rshunt) VAL=-15 RISE=1
+ TARG I(Rshunt) VAL=15 TD 10ns RISE=1
.MEAS TRAN tFall TRIG I(Rshunt) VAL=15 FALL=1
+ TARG I(Rshunt) VAL=-15 TD 10ns FALL=2
* .step TEMP list 27 150
* .tran 0 2.8m 1.9m 1e-7
.param Ik3 = 1m
.param UV1 = 0.75V
.param bias_be1 = 15
.param bias_b1 = {UV1/Ik3}
.model SWx SW(Ron=1u Roff=100Meg Vt=0 Vh=-.5 )
.option noopiter
.param Cfe = 1p
* .step param Cfe list 1f 1p 2p 4p 10p
.param Cf = 2p
;.step param Cf 1p 250p 25p
* .step param Kpi list 4.5 10 20
.options plotwinsize=0
* .step param Kpi 2.5 5 0.5
* .ac oct 100 1 100k
.param V1=1;
.param Rein 100
;.step param Rein list 1k 500 200 100
* PULSE({-Vstim_peak} {Vstim_peak} 0 100n 100n 1m 2m)
;.param Bias_b1=10m
.param Rref=2k
.param I0=100u
.param Iq=1m
.param R2={Iq/I0*Rref}
.param Vrail_bias = {Vsup}
* .step param Vstim_peak list 5 10 15
* .step param Vrail_bias  list 30V 32V 35V
* 10*33
.lib EIT_sub\vdc_single.sub
.lib LTC.lib
.lib LTC5.lib
.lib mj11015g_d.sub
.lib mj11016g_d.sub
.lib NJM4580_1.sub
.lib Sborka.lib
.backanno
.end
