* Z:\home\mainster\CODES_local\LTSpice_projects\galvoscanner\aktuell\bauteile_bestimmt\opamp_openloop_test.asc
R2 stim N001 3k3
R3 N001 N002 3k3
C1 P001 P002 {Clead}
R5 P002 N002 10m
XU2 +30V vdc_single V=30V
XU3 -30V vdc_single V=-30V
XU4 +12V vdc_single V=+12V
XU5 -12V vdc_single V=-12V
XU6 -5V vdc_single V=-5V
XU7 +5V vdc_single V=+5V
V1 stim 0 0 AC 1
XU9 jLead vdc_single V={jLead}
XU10 jCloop vdc_single V={jLoop}
XU8 N001 P001 jLead jumpernew status=1
XU11 out N002 jCloop jumpernew status=1
XU12 0 N003 out2 opamp_param_3 Vp=12 Vm=-12 Ilim=20m FT=10Meg SR=10 Vos=0 A0=100k phir=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R1 stim N003 3k3
R4 N003 N004 3k3
C2 P003 P004 {Clead}
R6 P004 N004 10m
XU14 N003 P003 jLead jumpernew status=1
XU15 out2 N004 jCloop jumpernew status=1
XU1 0 N001 +12V -12V out LT1028
.ac oct 100 1 50meg
.param TRY=1
+ jLead = {OFF}
+ jLoop = {OFF}
+ ON = 1
+ OFF = 0
+ Clead = 1p
* .step param jLead list 0 1
* .step param jLoop list 0 1
.op
* .model 1014 ako:LT1014\n.model 1028 ako:LT1028
* .step param LTx list 1001 1014 1028
.lib EIT_sub/vdc_single.sub
.lib EIT_sub\opamp_parametrierbar.sub
.lib EIT_sub\vdc_single.sub
.lib jumpernew.sub
.lib LTC.lib
.backanno
.end
